US06756378B2
A mixture of pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate (385.8 mg, 0.803 mmol), methyl 3,5-dichloro-4-(2-pyrrolidinyl)methoxybenzoate (244.3 mg, 0.803 mmol), Et3N (0.13 mL, 0.964 mmol) in DMF (4 mL) was stirred for 1 hr at room temp. The mixture was diluted with EtOAc, washed with brine, and dried over Na2SO4. The solvent was removed under a reduced pressure, and the residue was chromatographed on silica-gel with n-hexane:EtOAc (1:2, v/v) as eluent to afford methyl 3,5-dichloro-4-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]benzoate as an oil. To a stirred solution of this compound in THF (8 mL) and H2O (2 mL) was added LiOH (57.7 mg, 2.409 mmol), and the mixture was stirred at room temp overnight. The tire was concentrated in vacuo, and the residue was diluted with CHCl3. The solution was washed with 1N HCl, brine, and dried over Na2SO4. The solvent was removed under a reduced pressure, and the obtained crude solid was recrystallized from n-hexane-MeOH—CHCl3 to afford 428.2 mg (91%) 30 as a white crystalline powder. IR (KBr) 1618, 1535, 1454, 1257, 754 cm−1; 1H-NMR (400 MHz, DMSO-d6) δ1.83-2.24 (m, 4H), 2.24 (s, 3H), 3.50-3.58 (m, 4H), 3.84 (s, 3H), 3.98-4.05 (m, 1H), 4.15 (dd, J=2.9, 8.7 Hz, 1H), 4.29 (br m, 1H), 6.74 (d, J=8.3 Hz, 1H), 6.87 (s, 1H), 6.93 (t, J=7.3 Hz, 1H), 7.11 (d, J=7.8 Hz, 1H), 7.16 (d, J=8.3 Hz, 1H), 7.79 (d, J=8.3 Hz, 1H), 7.86 (s, 1H), 7.87 (d, J=9.8 Hz, 1H), 7.99 (d, J=8.3 Hz, 1H), 8.49 (s, 1H), 8.58 (s, 1H); MS (FAB) m/z 586 (M++1).

reactant | pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate | 0.803 mmol, 385.8 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H17F5N2O4
reactant | methyl 3,5-dichloro-4-(2-pyrrolidinyl)methoxybenzoate | 0.803 mmol, 244.3 mg | ClC=1C=C(C(=O)OC)C=C(C1OCC1NCCC1)Cl | C13H15Cl2NO3
reactant | Et3N | 0.964 mmol, 0.13 mL | CCN(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3,5-dichloro-4-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]benzoate | ClC=1C=C(C(=O)OC)C=C(C1OCC1N(CCC1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)Cl | C30H31Cl2N3O6
